US05124322
2-Benzylthio-3-methoxy-N,N-dimethyl benzylamine (D4)
A 1.6M solution of n-butyl lithium in hexane (7.0 ml, 11.3 mmol) was added at room temperature to a solution of 3-methoxy-N,N-dimethyl benzylamine (1.55 g, 9.4 mmol) in dry ether (30 ml). The solution was kept under nitrogen for 18 h, then a solution of benzyl disulphide (2.78 g, 11.3 mmol) in dry tetrahydrofuran (10 ml) was added over 10 min. After 45 min, water was added. The ethereal layer was extracted with 2M hydrochloric acid (3×5 ml). The acidic solution was washed with ether and was made basic with 10% sodium hydroxide, and extracted with ether. The organics were washed with water and brine then were dried (K2CO3). evaporated and recrystallized from ethyl acetate/hexane to leave the title compound (1.65 g, 61%), mp 69°-70° C. (Found: C,70.75; H,7.07; N,4.84. C17H21NOS requires C,71.04; H,7.36; N,4.87%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 11.3 mmol, 7.0 ml | CCCCCC | C6H14
reactant | 3-methoxy-N,N-dimethyl benzylamine | 9.4 mmol, 1.55 g | COC=1C=C(CN(C)C)C=CC1 | C10H15NO
reactant | benzyl disulphide | 11.3 mmol, 2.78 g | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Benzylthio-3-methoxy-N,N-dimethyl benzylamine | 1.65 g, 61% | C(C1=CC=CC=C1)SC1=C(CN(C)C)C=CC=C1OC | C17H21NOS
